US08133909B2
N-(6-Chloro-pyridin-3-yl)-2-oxo-2-phenyl-acetamide
In analogy to the procedure described for the synthesis example 41 (step 1), the title compound N-(6-chloro-pyridin-3-yl)-2-oxo-2-phenyl-acetamide (MS m/e: 261.0 [M+H]+) was prepared from 6-chloro-pyridin-3-ylamine and benzoylformic acid chloride.

reactant | 6-chloro-pyridin-3-ylamine | ClC1=CC=C(C=N1)N | C5H5ClN2
reactant | benzoylformic acid chloride | C(C1=CC=CC=C1)(=O)C(=O)Cl | C8H5ClO2
product | N-(6-chloro-pyridin-3-yl)-2-oxo-2-phenyl-acetamide | ClC1=CC=C(C=N1)NC(C(C1=CC=CC=C1)=O)=O | C13H9ClN2O2
